US07618959B2
Preparation of 6-(2-Chloroethyl)-4H-benzo[1,4]oxazin-3-one
To a dried flask under N2 atmosphere equipped with addition funnel was added 6-(2-chloroethanoyl)-4H-benzo[1,4]oxazin-3-one (10.0 g, 44.4 mmol) in trifluoroacetic acid (34 mL, 0.44 mol). To the resulting mixture at 0° C. was added triethylsilane (15.3 mL, 0.1 mole) dropwise over 5 min. The resulting mixture was warmed to 45° C. for 30 min and stirred at room temperature for 40 h. Reaction was poured onto ice water and layered with EtOAc. The organic layer was washed with water, brine, and dried over MgSO4. Solvent was removed on vacuum to give the desired compound as white solid (9.0 g, 93%). LC-MS (ES): m/e 212 (M+H)+.

reactant | 6-(2-chloroethanoyl)-4H-benzo[1,4]oxazin-3-one | 44.4 mmol, 10.0 g | ClCC(=O)C=1C=CC2=C(NC(CO2)=O)C1 | C10H8ClNO3
reactant | trifluoroacetic acid | 0.44 mol, 34 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 0.1 mole, 15.3 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-(2-Chloroethyl)-4H-benzo[1,4]oxazin-3-one | 9.0 g, 93% | ClCCC=1C=CC2=C(NC(CO2)=O)C1 | C10H10ClNO2
